US06229011B1
Cuprous bromide was prepared by heating a deep purple solution of CuSO4.5H2O (33 mmol, 8.25 g) and NaBr (66 mmol, 6.75 g) in HBr (33 mL, 48%) and adding Cu powder (66 mmol, 4.2 g) in portions until the purple solution became a colorless solution. This solution was then added in portions to a hot solution (ca.90° C.) of 2-amino-6-methylbenzoic acid (33 mmol, 5 g) in H2O (80 mL) and HBr (11.5 mL). This was followed by the dropwise addition of a solution of NaNO2 (99 mmol, 6.85 g) in H2O (20 mL) to this stirred heated solution over a period of 25 min. The dark-brownish mixture was heated at ca.90° C. for 1 hr and then was heated at reflux for another 30 min before it was cooled to room temperature and stirred for 2 hr. Then, the mixture was poured into ice (˜500 g), 5% NaOH solution was added until pH 14 was reached and the resulting dark suspension was filtered through celite. The yellow filtrate was acidified with conc. HCl to pH 1. Extractive work-up (Et2O, 3×150 mL) gave a dark residue which was dissolved in Et2O (100 mL), charcoal was added and the resulting solution was heated to reflux. Filtration and concentration gave a material which was recrystalized from Et2O/petrolium ether in hexane (100 mL) to afford the 2-bromo-6-methylbenzoic acid (3.5 g, 49%, HR MS: Obs. mass. 213.9633. Calcd. mass. 213.9629, M+) as a crystalline light pink solid; mp 104-106° C.

reactant | NaBr | 66 mmol, 6.75 g | [Na+].[Br-]
reactant | 2-amino-6-methylbenzoic acid | 33 mmol, 5 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | NaNO2 | 99 mmol, 6.85 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | charcoal | C | CH4
solvent | HBr | 33 mL | Br | BrH
solvent | H2O | 80 mL | O | H2O
solvent | HBr | 11.5 mL | Br | BrH
solvent | H2O | 20 mL | O | H2O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 2-bromo-6-methylbenzoic acid | 3.5 g, 49% | BrC1=C(C(=O)O)C(=CC=C1)C | C8H7BrO2
